US07691889B2
4-(2-Naphthyl)-4-oxobutanoic acid
Naphthalene (5.0 gm, 0.039 moles) and succinic anhydride (4.68 gm, 0.0468 moles) were taken up in dichloroethane (50 ml). Aluminium chloride (11.44 g, 0.0858 moles) was added at room temperature and the resulting mixture heated under reflux for 1 hr with stirring. The reaction mixture was cooled to room temperature, diluted with 25 ml of 1:1 mixture of water and Conc. hydrochloric acid. After stirring for 10 min the separated solid was filtered under suction, washed with water and dilute hydrochloric acid. Subsequent column chromatography gave a buff coloured solid. Subsequent chromatography gave 3.7 gm (41%) the title compound, mp 173-174° C.

reactant | Naphthalene | 0.039 moles, 5.0 gm | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | succinic anhydride | 0.0468 moles, 4.68 gm | C1(CCC(=O)O1)=O | C4H4O3
reactant | Aluminium chloride | 0.0858 moles, 11.44 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | 4-(2-Naphthyl)-4-oxobutanoic acid | 3.7 gm, 41% | C1=C(C=CC2=CC=CC=C12)C(CCC(=O)O)=O | C14H12O3
